US08314109B2
To a solution of 625 mg of ethyl 6-[ethoxy(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate in 12 mL of ethanol is added dropwise at 0-5° C. 0.2 mL of hydrazine hydrate. The reaction mixture is stirred for 2 hours, a further 73 μL of hydrazine hydrate are added and the mixture is stirred for a further 2 hours while allowing the temperature to rise to 25° C. The reaction mixture is concentrated to dryness under reduced pressure and the residue is dried to give 600 mg of ethyl 6-[hydrazino(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate, which is used without further purification in the rest of the synthesis.

reactant | ethyl 6-[ethoxy(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate | 625 mg | C(C)OC(C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)=N | C13H15N3O3
reactant | hydrazine hydrate | 0.2 mL | O.NN
reactant | hydrazine hydrate | 73 μL | O.NN
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | ethyl 6-[hydrazino(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate | 600 mg | N(N)C(C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)=N | C11H13N5O2
